US05654316
3,4-Dichloro-beta-(2-methanesulfonyloxyethyl)-N-(4-chlorophenyl)benzenepropanamide
3,4-Dichloro-beta-(2-hydroxyethyl)-N-(4-chlorophenyl)benzenepropanamide (3.5 g) in CH2Cl2 (60 mL) was cooled to -5° to -10° C. and treated sequentially with Et3N (1.19 g), and methanesulfonyl chloride (1.35 g). After two hours the reaction mixture was washed with water (3×50 mL) and the organic layer separated, dried over MgSO4, filtered and concentrated under reduced pressure to give the title compound (3.8 g).

reactant | 3,4-Dichloro-beta-(2-hydroxyethyl)-N-(4-chlorophenyl)benzenepropanamide | 3.5 g | ClC=1C=C(C=CC1Cl)C(CC(=O)NC1=CC=C(C=C1)Cl)CCO | C17H16Cl3NO2
reactant | Et3N | 1.19 g | CCN(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 1.35 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 60 mL | C(Cl)Cl | CH2Cl2
product | 3,4-Dichloro-beta-(2-methanesulfonyloxyethyl)-N-(4-chlorophenyl)benzenepropanamide | 3.8 g | ClC=1C=C(C=CC1Cl)C(CC(=O)NC1=CC=C(C=C1)Cl)CCOS(=O)(=O)C | C18H18Cl3NO4S
